US06919355B2
6-(4-Benzyloxypiperidin-1-carbonyl)-3H-furo[3′,2′:4,5]benzo[1,2-d]oxazole-2-one (45 14254)
The title compound is prepared from 3H-furo[2,3-f]benzoxazole-2-one-6-carboxylic acid and 4-benzyloxypiperidine according to the method described in Example 1/c. Mp.: 217-219° C. (diethyl ether).

reactant | 3H-furo[2,3-f]benzoxazole-2-one-6-carboxylic acid | O1C(NC2=C1C=C1C(=C2)OC(=C1)C(=O)O)=O | C10H5NO5
reactant | 4-benzyloxypiperidine | C(C1=CC=CC=C1)OC1CCNCC1 | C12H17NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-(4-Benzyloxypiperidin-1-carbonyl)-3H-furo[3′,2′:4,5]benzo[1,2-d]oxazole-2-one | C(C1=CC=CC=C1)OC1CCN(CC1)C(=O)C1=CC2=CC3=C(NC(O3)=O)C=C2O1 | C22H20N2O5
